US04695573
9-Amino-3,4-dihydro-7-nitroacridin-1(2H)-one
To 100 ml of cold H2SO4 was added 5.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one. The mechanically stirred solution was cooled to 0° C. and 2.1 ml (1 eq) of concentrated HNO3 (70 wt % solution) was added dropwise. Stirring was continued for 15 minutes after the addition, whereupon the reaction was complete. The reaction mixture was poured into excess crushed ice and made basic with a slight excess of 50% NaOH solution. More ice was added during the neutralization to keep the solution cool. The resulting precipitate was filtered and chromatographed over silica gel (ETOAc). The fractions containing the product were evaporated to a solid which was triturated with pentane to yield 4.77 g (79%) of a solid after drying, melting point 254° C. (with decomposition).

reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 5.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | HNO3 | 2.1 ml, 1 eq | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
product | 9-Amino-3,4-dihydro-7-nitroacridin-1(2H)-one | 4.77 g, 79% | NC=1C2=CC(=CC=C2N=C2CCCC(C12)=O)[N+](=O)[O-] | C13H11N3O3
